US08426411B2
Step N: 3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol
A scalemic mixture enriched in 1-((1S,2R,4R)-4-(tert-butyldimethylsilyloxy)-2-ethylcyclopentyl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (1.55 g, 2.87 mmol) was suspended in ethanol (30 mL). Concentrated HCl (0.3 mL, 3.65 mmol) was added dropwise. After about 1 h., the suspension was sonicated until all solid went into solution. EtOAc (250 mL) was added and the organics were washed with saturated aqueous NaHCO3 (2×30 mL) and brine (30 mL), dried over anhydrous MgSO4, filtered, and concd under reduce pressure. The residue was purified using silica gel chromatography eluting with 30-80% EtOAc in DCM to give a scalemic mixture enriched in (1R,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol (1.09 g, 90%): LC/MS (Table 1, Method b) Rt=1.99 min; MS m/z: 426 (M+H)+.

reactant | 1-((1S,2R,4R)-4-(tert-butyldimethylsilyloxy)-2-ethylcyclopentyl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 2.87 mmol, 1.55 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H]([C@H](C1)C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)CC | C27H37N5O3SSi
reactant | HCl | 3.65 mmol, 0.3 mL | Cl | ClH
reactant | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | (1R,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol | 1.09 g | C(C)[C@@H]1C[C@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)O | C21H23N5O3S
product | 3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol | C(C)C1CC(CC1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)O | C21H23N5O3S
